US06498169B1
Synthesis of 1-(Ethoxycarbonyl)-4-[N-ethyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine
To a solution of 1-(ethoxycarbonyl)-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methylamino]piperidine (400 mg) in acetonitrile (5 mL) was added potassium carbonate (13 mg) and iodoethane (145 mg). The mixture was placed in sealed vessel and stirred at 80° C. for 2 hours. After removing the solvent in vacuo, ethyl acetate was added, washed with water and brine, dried over anhydrous sodium sulfate and evaporated. The residue was subjected to a column of silica gel using chloroform-methanol (30:1) as an eluent. Fractions containing the product were collected and evaporated to give the title compound as yellow syrup.

reactant | 1-(ethoxycarbonyl)-4-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methylamino]piperidine | 400 mg | C(C)OC(=O)N1CCC(CC1)NCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H31N3O5
reactant | potassium carbonate | 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 145 mg | ICC | C2H5I
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-(Ethoxycarbonyl)-4-[N-ethyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | C(C)OC(=O)N1CCC(CC1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)CC | C25H35N3O5
